US04539423
To the same reaction vessel as in Example 9 were charged bistriphenylphosphinedibromopalladium (0.396 g, 0.5 mmole), stannous chloride (0.190 g, 1 mmole), tetra-n-butylammonium chloride (0.278 g, 1 mmole) and n-amyl nitrite (25 ml, 171.0 mmole), together with monochlorobenzene (200 ml). Then, ketene, carbon monooxide and nitrogen were introduced to the mixture at the rate of 26.4 ml/min (1.18 mmole/min), 300 ml/min and 100 ml/min, respectively, and the reaction was performed at 90° C. for 3 hours. During the reaction, a further n-amyl nitrite (50 ml, 342.0 mmoles) was added dropwise to the reaction mixture over 2.5 hours. The reaction mixture was analyzed by gas chromatography, revealing that di-n-amyl malonate (125.6 mmoles, 59.1%) and n-amyl acetate (24.7 mmoles) were obtained.

reactant | n-amyl nitrite | 171.0 mmole, 25 ml | CCCCCON=O | C5H11NO2
reactant | ketene | C=C=O | C2H2O
reactant | carbon monooxide | [C]=O | CO
reactant | n-amyl nitrite | 342.0 mmoles, 50 ml | CCCCCON=O | C5H11NO2
catalyst | tetra-n-butylammonium chloride | 1 mmole, 0.278 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | monochlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | n-amyl acetate | 24.7 mmoles | CCCCCOC(=O)C | C7H14O2
